US08486962B2
A solution of 2-dimethylamino-5-nitro-benzoic acid (200 mg, 0.95 mmol) in methanol (15 ml) was hydrogenated over 10% Pd/C (20 mg) at 30 psi until no further gas uptake was observed. The reaction mixture was then filtered over celite and the filtrate evaporated to yield the crude product. Recrystallisation using pet. ether yielded 5-amino-2-dimethylamino-benzoic acid (110 mg, 70%).

reactant | 2-dimethylamino-5-nitro-benzoic acid | 0.95 mmol, 200 mg | CN(C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-])C | C9H10N2O4
solvent | methanol | 15 ml | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 5-amino-2-dimethylamino-benzoic acid | 110 mg, 70% | NC=1C=CC(=C(C(=O)O)C1)N(C)C | C9H12N2O2
